### PR TITLE
feat(Computability/Languages): languages matching regular expressions are regular

### PR DESCRIPTION
**Pull request by chiyunhsu**
Prove languages matching regular expressions are regular in IsRegular.regex.
The proof uses existing theorems IsRegular.add, IsRegular.mul, and IsRegular.kstar.
Prove remaining key ingredient that the language containing only the one character string is regular in IsRegular.char.

Implemented collaboratively by Brooke Gill and Chi-Yun Hsu

### CODE REVIEW

**Review by ctchou — CHANGES_REQUESTED** [review]
I did some golfing for you.  Could you cherry-pick the following commit and put it on top of your branch?  I was not able to push to your branch.

https://github.com/leanprover/cslib/commit/bc9f48624a31f882f45111b39c37cc95bf2a5d04

**Review by ctchou — APPROVED** [review]
LGTM.

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 1]
```diff
@@ -184,4 +185,32 @@ theorem IsRegular.congr_fin_index {Symbol : Type}
...
+  | append_singleton xs x ih =>
+    simp only [mem_language, Accepts, Language.mem_singleton, FLTS.mtr_concat_eq] at ih ⊢
+    constructor
+    · induction xs using List.reverseRec <;> grind
+    · simp_all [flts, List.append_eq_cons_iff]
+
+/-- Languages matching regular expressions are regular. -/
+theorem IsRegular.regex [Inhabited Symbol] {r : RegularExpression Symbol} :
+    r.matches'.IsRegular := by
+  -- obtain ⟨r, hr⟩ := h
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]: Please remove this commented line:
```suggestion
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Sorry, that was my mistake.

**Review by chenson2018 — APPROVED** [review]
Thanks!
